US07456164B2
1-(4-{4-[(1-cyclopentylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-Pyran-4-yl)-N,N-dimethylmethanamine
Cyclopentyl bromide (0.17 ml, 1.54 mmol) and 5M aqueous sodium hydroxide (0.34 ml, 1.68 mmol) were added to a solution of 1-{4-[4-(azetidin-3-ylmethoxy)phenyl]tetrahydro-2H-pyran-4-yl]-N,N-dimethylmethanamine (425 mg, 1.4 mmol) in acetone (9 ml). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo. The residue was taken up in 2N hydrochloric acid to reach pH 1 and extracted with tert-butylmethyl ether (2×15 ml). The aqueous layer was then basified to pH14 with 4M sodium hydroxide (ca 40 ml) and extracted with dichloromethane (3×30 ml). These organic layers were combined, dried over magnesium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:4:1 by volume) to provide the title compound (55 mg, 11%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 1.28-1.73 (m, 8H), 1.83-1.93 (m, 2H), 1.96 (s, 6H), 2.05-2.13 (m, 2H), 2.40 (s, 2H), 2.71 (m, 1H), 2.90 (m, 1H), 3.00 (t, 2H), 3.39-3.58 (m, 4H), 3.72-3.78 (m, 2H), 4.05 (d, 2H), 6.87 (d, 2H), 7.21 (d, 2H). LRMS ESI+ m/z 373 [MH]+.

reactant | Cyclopentyl bromide | 1.54 mmol, 0.17 ml | C1(CCCC1)Br | C5H9Br
reactant | sodium hydroxide | 1.68 mmol, 5M, 0.34 ml | [OH-].[Na+]
reactant | 1-{4-[4-(azetidin-3-ylmethoxy)phenyl]tetrahydro-2H-pyran-4-yl]-N,N-dimethylmethanamine | 1.4 mmol, 425 mg | N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C18H28N2O2
solvent | acetone | 9 ml | CC(=O)C | C3H6O
product | 1-(4-{4-[(1-cyclopentylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-Pyran-4-yl)-N,N-dimethylmethanamine | 55 mg, 11% | C1(CCCC1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C23H36N2O2
